US04623639
1.3 g (1.6 mmol) of Nα -(1-adamantylsulphonyl)-Nε -(4-benzyloxycarbonylbenzoyl)-L-lysyl-L-prolyl-L-valinal dimethyl acetal in 15 ml of dimethylformamide were hydrogenated in the presence of 5% palladium/carbon for 3 hours. The catalyst was removed by filtration and the filtrate was evaporated to give an oil. This oil was taken up in sodium bicarbonate solution, extracted with ethyl acetate, the aqueous phase was acidified to pH 2-3 with dilute hydrochloric acid and extracted with ethyl acetate. The organic phase was washed free from acid with water, dried over magnesium sulphate and evaporated to give a foam. This foam was chromatographed on 25 g of silica gel using dichloromethane/methanol/acetic acid (190:9:2) for the elution. Evaporation of the eluate and trituration of the residue with diethyl ether yielded 0.35 g (33%) of Nα -(1-adamantylsulphonyl)-Nε -(4-carboxybenzoyl)-L-lysyl-L-prolyl-L-valinal in the form of a solid.

reactant | Nα -(1-adamantylsulphonyl)-Nε -(4-benzyloxycarbonylbenzoyl)-L-lysyl-L-prolyl-L-valinal dimethyl acetal | 1.6 mmol, 1.3 g | COC([C@@H](NC([C@H]1N(CCC1)C([C@@H](NS(=O)(=O)C12CC3CC(CC(C1)C3)C2)CCCCNC(C2=CC=C(C=C2)C(=O)OCC2=CC=CC=C2)=O)=O)=O)C(C)C)OC | C43H60N4O9S
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | palladium/carbon | [Pd] | Pd
product | Nα -(1-adamantylsulphonyl)-Nε -(4-carboxybenzoyl)-L-lysyl-L-prolyl-L-valinal | 0.35 g, 33% | C12(CC3CC(CC(C1)C3)C2)S(=O)(=O)N[C@@H](CCCCNC(C2=CC=C(C=C2)C(=O)O)=O)C(=O)N2[C@H](C(=O)N[C@@H](C(C)C)C=O)CCC2 | C34H48N4O8S
